US07427612B2
3-[4-(4-Acetyl-2-fluoro-phenyl)-piperazine-1-carbonyl]-N-methyl-4-morpholin-4-yl-benzamide
The title compound was prepared according to the procedure described for example K/step2 from 3-[4-(4-Acetyl-2-fluoro-phenyl)-piperazine-1-carbonyl]-4-morpholin-4-yl-benzoic acid and methylamine (43%, white solid, MS (m/e): 469.3 (M+H, 100%)

reactant | 3-[4-(4-Acetyl-2-fluoro-phenyl)-piperazine-1-carbonyl]-4-morpholin-4-yl-benzoic acid | C(C)(=O)C1=CC(=C(C=C1)N1CCN(CC1)C(=O)C=1C=C(C(=O)O)C=CC1N1CCOCC1)F | C24H26FN3O5
reactant | methylamine | CN | CH5N
product | 3-[4-(4-Acetyl-2-fluoro-phenyl)-piperazine-1-carbonyl]-N-methyl-4-morpholin-4-yl-benzamide | C(C)(=O)C1=CC(=C(C=C1)N1CCN(CC1)C(=O)C=1C=C(C(=O)NC)C=CC1N1CCOCC1)F | C25H29FN4O4
